US07034039B2
A solution of tert-butyl[6-[4-(aminocarbonyl)-1,3-thiazol-2-yl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.32 g, 0.6 mmol) and cyanuric chloride (0.33 g, 1.8 mmol) in N,N-dimethylformamide (10 mmol) was stirred at 0° C. for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl[6-(4-cyano-1,3-thiazol-2-yl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.28 g, 90.3%) as crystals.

reactant | tert-butyl[6-[4-(aminocarbonyl)-1,3-thiazol-2-yl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.6 mmol, 0.32 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC=C(N1)C(=O)N)=O)CC(C)C)=O | C29H32N4O4S
reactant | cyanuric chloride | 1.8 mmol, 0.33 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | N,N-dimethylformamide | 10 mmol | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl[6-(4-cyano-1,3-thiazol-2-yl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.28 g, 90.3% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC=C(N1)C#N)=O)CC(C)C)=O | C29H30N4O3S
